US04001422
4-Chloro-6,7-dimethoxyquinazoline (30 g), 4-piperidone ethylene ketal hydrochloride (25 g), triethylamine (35 g) and ethanol (250 ml.) were refluxed together for 3 hours. Aqueous sodium carbonate was added followed by extraction with chloroform after which the chloroform extract was dried and evaporated in vacuo to give an oil. The oil was redissolved in aqueous hydrochloric acid (1.5N, 200 ml.) and refluxed for 2 hours followed by cooling, basification (Na2CO3 10% soln) and extraction into chlororform. Evaporation of the dried chloroform extract gave 4-(4-oxo-piperidino)-6,7-dimethoxyquinazoline (37.6 g) m.p. 176°-8° C.

reactant | 4-Chloro-6,7-dimethoxyquinazoline | 30 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 4-piperidone ethylene ketal hydrochloride | 25 g | Cl.C1COC2(CCNCC2)O1
reactant | triethylamine | 35 g | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 1.5N, 200 ml | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-(4-oxo-piperidino)-6,7-dimethoxyquinazoline | 37.6 g | O=C1CCN(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C15H17N3O3
